US08957068B2
To an oven dried round bottom flask with stir bar was added 4-bromo-2-fluorobenzaldehyde (5 g, 24.6 mmol), (R)-2-methylpropane-2-sulfinamide (3.28 g, 27.1 mmol) and DCE (49 mL). To this mixture was then added copper (II) sulfate (5.90 g, 36.9 mmol). Reaction mixture was heated in a preheated oil bath to 55° C. for 18 hours. Reaction mixture was filtered through a pad celite, washing the solids with CH2Cl2. The filtrate was concentrated to afford a viscous yellow oil of (R,E)-N-(4-bromo-2-fluorobenzylidene)-2-methylpropane-2-sulfinamide (7.73 g, 25.2 mmol, 103% yield). 1H NMR (400 MHz, CDCL3) δ 1.27 (s, 9H) 7.31-7.42 (m, 2H) 7.87 (t, J=7.87 Hz, 1H) 8.83 (s, 1H). LCMS m/z 307.9 (M+H)+, Rt 1.01 min.

reactant | 4-bromo-2-fluorobenzaldehyde | 24.6 mmol, 5 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | (R)-2-methylpropane-2-sulfinamide | 27.1 mmol, 3.28 g | CC(C)(C)[S@@](=O)N | C4H11NOS
catalyst | copper (II) sulfate | 36.9 mmol, 5.90 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | DCE | 49 mL | ClCCCl | C2H4Cl2
product | (R,E)-N-(4-bromo-2-fluorobenzylidene)-2-methylpropane-2-sulfinamide | 25.2 mmol, 7.73 g, 103% yield | BrC1=CC(=C(\C=N\[S@](=O)C(C)(C)C)C=C1)F | C11H13BrFNOS
